US07758932B2
Synthesis of 2-chloro-4-hydroxy-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester
To 25 mL of dehydrated ethanol, 2.5 g (4.7 mmol) of 4-benzyloxy-2-chloro-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester, 20 mL of cyclohexene, and 0.13 g of palladium hydroxide/carbon were added. Then, the mixture was refluxed for 12 hours under argon. The resulting reaction mixture was filtered, and the filtered liquid was concentrated. The residue was recrystallized from hexane/ethyl acetate. As a result, 1.65 g of a white solid was obtained.

reactant | 4-benzyloxy-2-chloro-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester | 4.7 mmol, 2.5 g | C(CCCC)C1=CC=C(OC(=O)C2=CC=C(C=C2)OC(C2=C(C=C(C=C2)OCC2=CC=CC=C2)Cl)=O)C=C1 | C32H29ClO5
reactant | cyclohexene | 20 mL | C1=CCCCC1 | C6H10
catalyst | palladium hydroxide/carbon | 0.13 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-chloro-4-hydroxy-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester | 1.65 g | C(CCCC)C1=CC=C(OC(=O)C2=CC=C(C=C2)OC(C2=C(C=C(C=C2)O)Cl)=O)C=C1 | C25H23ClO5
